US06897013B2
(1) Synthesis of mono(2-ethylhexyl) mono(1,1,1,3,3,3-hexa-fluoro-2-propyl) Maleate
1,1,1,3,3,3-Hexafluoro-2-propanol (HFIP, 33.7 g, 201 mmol) and pyridine (17.9 mL, 220 mmol) were dissolved in acetonitrile (80 mL) and added dropwise with mono(2-ethylhexyl) maleate chloride (41.8 g, 220 mmol), while the internal temperature was kept at 20° C. or lower by cooling the solution on an ice bath. After completion of the addition, the reaction mixture was stirred at room temperature for 1hour and added with ethyl acetate, and the organic phase was washed with 1 mol/L aqueous hydrochloric acid and a saturated sodium chloride aqueous solution. Then, the organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/chloroform=10/0 to 7/3 (v/v)) to obtain the target compound (10.6 g, yield: 14%) as a colorless transparent oily compound.

reactant | 1,1,1,3,3,3-Hexafluoro-2-propanol | 201 mmol, 33.7 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | pyridine | 220 mmol, 17.9 mL | N1=CC=CC=C1 | C5H5N
reactant | mono(2-ethylhexyl) maleate chloride | 220 mmol, 41.8 g | [Cl-].C(\C=C/C(=O)[O-])(=O)OCC(CCCC)CC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | mono(2-ethylhexyl) mono(1,1,1,3,3,3-hexa-fluoro-2-propyl) Maleate | 10.6 g, yield: 14% | C(\C=C/C(=O)OC(C(F)(F)F)C(F)(F)F)(=O)OCC(CCCC)CC | C15H20F6O4
